US08134007B2
N-[6-Amino-5-(2-chloro-5-methoxyphenyl)pyridin-2-yl]-1-methyl-1H-pyrazole-5-carboxamide
To a solution of 1-methyl-1H-pyrazole-5-carboxylic acid (5.28 g, 41.9 mmol) in dichloromethane (55 ml) was added oxalyl chloride (9.14 ml, 104.8 mmol) followed by 3 drops of dimethylformamide. The reaction was stirred at room temperature for 18 hours before concentration in vacuo. The residue was dissolved in acetonitrile (42 ml) and added dropwise to a cooled solution of 3-(2-chloro-5-methoxyphenyl)pyridine-2,6-diamine (preparation 1, 9.5 g, 38 mmol) and lutidine (6.6 ml, 57.1 mmol) in acetonitrile (650 ml). The reaction was allowed to warm to room temperature and stirred under nitrogen for 2 hours. The reaction was quenched by the addition of water (300 ml) and concentrated to low volume in vacuo. The aqueous residue was washed with dichloromethane (2×300 ml), dried (MgSO4) and concentrated in vacuo. The residue was purified by silica gel column chromatography eluting with ethylacetate:heptane 1:4 to furnish a solid. This was recrystallised from toluene (100 ml) to afford 6.7 g of the title product.

reactant | 1-methyl-1H-pyrazole-5-carboxylic acid | 41.9 mmol, 5.28 g | CN1N=CC=C1C(=O)O | C5H6N2O2
reactant | oxalyl chloride | 104.8 mmol, 9.14 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(2-chloro-5-methoxyphenyl)pyridine-2,6-diamine | 38 mmol, 9.5 g | ClC1=C(C=C(C=C1)OC)C=1C(=NC(=CC1)N)N | C12H12ClN3O
reactant | lutidine | 57.1 mmol, 6.6 ml | N1=C(C=CC=C1C)C | C7H9N
solvent | dichloromethane | 55 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | acetonitrile | 42 ml | C(C)#N | C2H3N
solvent | acetonitrile | 650 ml | C(C)#N | C2H3N
product | N-[6-Amino-5-(2-chloro-5-methoxyphenyl)pyridin-2-yl]-1-methyl-1H-pyrazole-5-carboxamide | 6.7 g | NC1=C(C=CC(=N1)NC(=O)C1=CC=NN1C)C1=C(C=CC(=C1)OC)Cl | C17H16ClN5O2
